US05965730
To a solution of methyl isocyanoacetate (18 ml) in dimethylformamide (85 ml) is added sodium hydride (7.85 g, 62.4% in oil) with ice-cooling under nitrogen atmosphere, and the mixture is stirred at room temperature for 30 minutes. To a solution of 3,4-dimethoxy-6-(2-chloroisonicotinoyl)benzaldehyde (52.0 g) in dimethylformamide (170 ml) is added dropwise the above solution at 40-50° C., and then the mixture is stirred at 50° C. for one hour. The mixture is neutralized with 10% acetic acid, concentrated, and extracted with chloroform. The extract is washed, and the insoluble materials are collected by filtration, and the filtrate is dried and concentrated. The resultant and the collected insoluble materials are combined, and recrystallized from ether-methanol to give 2-chloro-4-(3-methoxycarbonyl-6,7-dimethoxyisoquinolin-1-yl)pyridine (16.1 g).

reactant | methyl isocyanoacetate | 18 ml | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | sodium hydride | 7.85 g | [H-].[Na+]
reactant | 3,4-dimethoxy-6-(2-chloroisonicotinoyl)benzaldehyde | 52.0 g | COC=1C=C(C=O)C(=CC1OC)C(C1=CC(=NC=C1)Cl)=O | C15H12ClNO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-(3-methoxycarbonyl-6,7-dimethoxyisoquinolin-1-yl)pyridine | 16.1 g | ClC1=NC=CC(=C1)C1=NC(=CC2=CC(=C(C=C12)OC)OC)C(=O)OC | C18H15ClN2O4
